Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Unresponsiveness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ year old man with a past medical 
history
of hypertension, hepatitis, C, and alcohol abuse who initially
was found down, CTH at OSH showing 4mm left pontine hemorrhage,
transferred to ___ for furhter evaluation. 
Patient reports that for the past ___ days he has been
experiencing a headache. He doesn't quite remember the start of
the headache, but believes it was gradual in onset. He describes
the headache as a dull pain that is throbbing, holocephalic, and
___ in severity. He has never had this type of headache before.
He has had tension type headaches in the past that respond well
to Tylenol but nothing as severe and constant as this. He also
endorses intermittent nausea over the past few days. 
On the day of presentation, he woke up in his usual state of
health. He ate breakfast at the ___ where he resides, and
then left the shelter to meet some friends. He drank about ___ a
pint of vodka, which is usual for him. He then returned to the
shelter for a short while, and remembers leaving the shelter to
go to ___. He doesn't remember arriving at ___ because he believes that he was inebriated. This is
typical for him. Patient doesn't recall further events, and then
next thing he recalls is being in the ED at OSH. 
Per ED report, patient was brought in by EMS from ___ and
___ due to intoxication. Patient was found lying on
the floor at ___ but was awake and alert. There was no
obvious evidence of trauma. A CTH was done which showed a 3mm
pontine hemorrhage. In the ED, patient had a nonfocal
neurological exam and a blood pressure of 147/76. Neurology
consulted for further evaluation.  
 
On neuro ROS, the pt denies headache, loss of vision, blurred
vision, diplopia, dysarthria, dysphagia, lightheadedness,
vertigo, tinnitus or hearing difficulty. 
Denies difficulties producing or comprehending speech.  Denies
focal weakness, numbness, parasthesiae. No bowel or bladder
incontinence or retention. Denies difficulty with gait.
 
On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits.  
No
dysuria.  Denies arthralgias or myalgias. Denies rash.

 
Past Medical History:
- hypertension
- hepatitis C
- alcohol abuse 

 
Social History:
___
Family History:
Father had a history of hypertension

 
Physical Exam:
ADMISSION
Vitals: T: 97.6 P: 78  R: 16  BP: 147/78  SaO2: 97% RA
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple. No nuchal rigidity
Pulmonary: Normal work of breathing
Cardiac: RRR, warm, well-perfused
Abdomen: soft, non-distended
Extremities: No ___ edema.
Skin: no rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented x 3. Able to relay his personal
history, but cannot recall many details of events of the day. 
Attentive to examiner. Language is fluent with intact repetition
and comprehension. Normal prosody. There were no paraphasic
errors. Pt was able to name both high and low frequency objects. 

Speech was not dysarthric. Able to follow both midline and
appendicular commands. There was no evidence of apraxia or
neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. 
V: Facial sensation intact to light touch and pinprick.
VII: Left NLFF with symmetric activation. Symmetric eyebrow
raise. 
VIII: Hearing intact to conversation.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes slightly to the left, but has full
excursions bilaterally. 

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. A few beats of
asterixis bilaterally. 
  Delt Bic Tri WrE  FE  IP Quad Ham  TA Gastroc   
L  ___    5   5    5    5  5    5    5      
R  ___    5   5    5    5  5    5    5     

-Sensory: No deficits to light touch, pinprick, proprioception 
in
the upper and lower extremities bilaterally. No extinction to
DSS. 

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    1   1
R  2  2    2    1   1
Plantar response was flexor bilaterally.

-Coordination: No intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF or HKS bilaterally.

-Gait: Able to stand independently. No sway with eyes closed,
Romberg negative. Narrow-based, normal stride and arm swing. 

****
UNCHANGED ON DISCHARGE 
 
Pertinent Results:
___ 06:59AM BLOOD WBC-2.3* RBC-4.36* Hgb-12.7* Hct-40.1 
MCV-92 MCH-29.1 MCHC-31.7* RDW-13.7 RDWSD-46.3 Plt ___
___ 05:10AM BLOOD WBC-2.7* RBC-4.16* Hgb-12.1* Hct-37.9* 
MCV-91 MCH-29.1 MCHC-31.9* RDW-13.7 RDWSD-45.8 Plt ___
___ 06:49PM BLOOD WBC-3.3* RBC-4.15* Hgb-12.0* Hct-38.4* 
MCV-93 MCH-28.9 MCHC-31.3* RDW-13.7 RDWSD-46.7* Plt ___
___ 06:59AM BLOOD Glucose-106* UreaN-10 Creat-0.7 Na-141 
K-4.2 Cl-102 HCO3-28 AnGap-11

IMAGING: 
MRI BRAIN
1. Punctate focus of susceptibility artifact within the left 
pons without 
surrounding enhancement, corresponding with the abnormality seen 
on the recent 
head CT.  Additional tiny focus of susceptibility artifact 
within the right 
cerebellum.  Given the multiplicity, these are favored to 
represent foci of 
microhemorrhage, although tiny cavernomas cannot be completely 
excluded. 
2. Mild smooth pachymeningeal thickening and enhancement near 
the vertex 
bilaterally, which is nonspecific, but can be seen in the 
setting of trauma.  
Other less likely differential considerations include 
intracranial 
hypotension, infectious and inflammatory etiologies, which 
typically 
demonstrate more diffuse pachymeningeal thickening and 
enhancement. 
3. No acute infarct.  Additional findings described above. 

 
Brief Hospital Course:
___ is a ___ year old man with a past medical 
history
of hypertension, hepatitis, C, and alcohol abuse who initially
was found down intoxicated with no obvious signs of trauma, CTH
at OSH showing possible 4mm left pontine hemorrhage, transferred
to ___ for further evaluation.

#Suspected Cavernoma vs. small hypertensive microhemorrhage 
Physical exam remains non-focal. Repeat CTH showed "stable left
pontine hemorrhage" possibly due to microhemorrhage or a tiny 
caveronma .  MRI was consistent with this finding. CTA showed no 
aneurysm. Etiology of hemorrhage could be secondary to 
hypertension ,particularly given history that he does not 
reliably take his blood pressure meds. 

#Hypertension
Takes amlodipine 10mg at home. Added HCTZ 12.5mg daily. Will  
need to follow-up with PCP ___ ___ weeks

#Ground glass opacities
CTA showed nodule concerning for pulmonary mass, however, CT 
chest showed ground glass opacities likely to represent 
infectious/inflammatory process. Will need repeat CT chest in a 
few months to look for resolution.

#Pancytopenia
-Likely due to EtOH use, HIV may be contributing factor

#HIV: NEGATIVE ON TESTING
-No evidence of HIV on viral load testing

# EtOH use
Counseled to stop drinking. Continue thiamine, folate

Transitional Issues:
-Follow-up with PCP for BP management 
-Repeat CT chest to look for resolution of ground glass 
opacities,k PCP to follow up
-Abstain from ETOH use 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 10 mg PO DAILY 
2. FoLIC Acid 1 mg PO DAILY 
3. Thiamine 100 mg PO DAILY 

 
Discharge Medications:
1.  Hydrochlorothiazide 12.5 mg PO DAILY 
RX *hydrochlorothiazide 12.5 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*3
RX *hydrochlorothiazide 12.5 mg 1 capsule(s) by mouth DAILY Disp 
#*90 Capsule Refills:*3 
2.  amLODIPine 10 mg PO DAILY  
3.  FoLIC Acid 1 mg PO DAILY  
4.  Thiamine 100 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
small pontine hemorrhage vs. cavernoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

You were admitted after you were found down on the ground at 
___. You were taken to the hospital where a CT of your 
head was performed and showed a small lesion in the back part of 
your brain that is either a small amount of blood or a blood 
vessel abnormality. You underwent an MRI of the brain that also 
redemonstrated this. It is important that you keep your blood 
pressure under control. You will take amlodipine 10mg daily and 
a new medication called hydrochlorothiazide 12.5mg daily.

Please take your medications daily without fail. Please abstain 
from alcohol use. Please follow up with your primary care doctor 
in ___ weeks to check your blood pressure. 

We are working on scheduling a follow up appointment in our 
stroke clinic. If you do not hear from our 
office within the next 2 weeks, please call ___ to 
schedule an appointment.

Thank you for involving us in your care.

___ Neurology
 
Followup Instructions:
___